US07939666B2
Stage 3: 1-Formyl-1,3,4,9-tetrahydro-beta-carboline-2-carboxylic acid benzyl ester
A solution of 1,3,4,9-tetrahydro-beta-carboline-1,2-dicarboxylic acid 2-benzyl ester (3.7 mg, 9.4 mmol) in THF (100 ml) under N2 was cooled to −78° C. 1.5M DIBAL in toluene solution (31.2 ml, 47 mmol) was added over 2 hours. After stirring for 4 hours the reaction mixture was quenched with methanol and water, extracted into EtOAc and washed with dilute aqueous HCl. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. LCMS purity 50%, m/z 335 [M++H]+ The material was used in the next stage without further purification.

reactant | 1,3,4,9-tetrahydro-beta-carboline-1,2-dicarboxylic acid 2-benzyl ester | 9.4 mmol, 3.7 mg | C(C1=CC=CC=C1)OC(=O)N1C(C=2NC3=CC=CC=C3C2CC1)C(=O)O | C20H18N2O4
reactant | DIBAL | 1.5M | CC(C)C[AlH]CC(C)C
reactant | toluene | 47 mmol, 31.2 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-Formyl-1,3,4,9-tetrahydro-beta-carboline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C=2NC3=CC=CC=C3C2CC1)C=O | C20H18N2O3
